US07332495B2
IV-4 N1-(4-nitrobenzyl)-N4-phenacyl piperazine dihydrochloride
A mixture of N-(4-nitrobenzyl)piperazine dihydrochloride (7.73 g, 30 mmol), triethylamine (8.37 ml, 60 mmol) and 2-chloro-1-phenylethanone (6.12 g, 39 mmol) in 100 ml of benzene was refluxed for 5 hours, and then treated according to general preparation 2 to give 5.2 g of compound (IV-4), yield 59.51%, mp 236-238° C. M+ 339.

reactant | N-(4-nitrobenzyl)piperazine dihydrochloride | 30 mmol, 7.73 g | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCNCC2)C=C1
reactant | triethylamine | 60 mmol, 8.37 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-phenylethanone | 39 mmol, 6.12 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N1-(4-nitrobenzyl)-N4-phenacyl piperazine dihydrochloride | 5.2 g, yield 59.51% | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCN(CC2)CC(=O)C2=CC=CC=C2)C=C1 | InChI=1S/C19H21N3O3.2ClH/c23-19(17-4-2-1-3-5-17)15-21-12-10-20(11-13-21)14-16-6-8-18(9-7-16)22(24)25;;/h1-9H,10-15H2;2*1H
